US07122571B2
4-Methoxybenzaldehyde-4-sulfamylphenylhydrazone
A solution of 4-methoxybenzaldehyde (5 mmol) and 4-sulfamylphenyl-hydrazine hydrochloride was to the General Procedure. The title compound, melting point 228–231° C., was obtained in 62% yield.

reactant | 4-methoxybenzaldehyde | 5 mmol | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 4-sulfamylphenyl-hydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-Methoxybenzaldehyde-4-sulfamylphenylhydrazone | 62% yield | S(N)(=O)(=O)C1=CC=C(C=C1)NN=CC1=CC=C(C=C1)OC | C14H15N3O3S
